US08034558B2
2,2′-Iminodibenzoic acid (5.27 g, 20.5 mmol) was mixed with phosphorus oxychloride (20 ml). The resulting pale yellow slurry was heated to boiling. The slurry turned initially bright yellow, then dissolved to give a deep red solution which was intensely yellow at the meniscus. After 2 hrs at reflux, excess solvent was evaporated under vacuum to give a dark oil. This was quenched with ice, then diluted with 2.0M aqueous HCl (25 ml) and the resulting dark solution re-heated to boiling. After 20 mins a solid precipitated and the mixture became very thick; another 20 mls of water was then added to allow effective stirring. After 1.5 hrs, the mixture was allowed to cool to ambient temperature. The yellow solid was collected by vacuum filtration, washed well with water, then acetone, and dried under vacuum to give 4-carboxyacridone (4.61 g, 94%). λmax (EtOH)=408, 390, 256 nm. δH (300 MHz, DMSO-d6) 7.24-7.33 (2H, m), 7.67-7.76 (2H, m), 8.17 (1H, d), 8.38 (1H, dd), 8.47 (1H, dd) and 11.9 (broad s, partially exch). Mass spectrum: (ES+) 240 (M+H), 262 (M+Na). Melting Point>300° C.

reactant | 2,2′-Iminodibenzoic acid | 20.5 mmol, 5.27 g | N(C1=C(C(=O)O)C=CC=C1)C1=C(C(=O)O)C=CC=C1 | C14H11NO4
solvent | phosphorus oxychloride | 20 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-carboxyacridone | 4.61 g, 94% | C(=O)(O)C1=CC=CC=2C(C3=CC=CC=C3NC12)=O | C14H9NO3
